US09024027B2
1,3-Dioxoisoindoline-5-carbonitrile (0.522 g, 3.03 mmol) was dissolved in dry DMF (10 ml), then tert-butyl 2-bromoacetate (0.672 ml, 4.55 mmol) and K2CO3 (0.629 g, 4.55 mmol) were added. The resulting suspension was stirred at 90° C. for 3 hours. The solvent was evaporated under vacuum, and the crude was dissolved in ethyl acetate. The precipitate was filtered and washed with ethyl acetate; the filtrate was evaporated under vacuum and the residue was purified by silica gel flash chromatography (petroleum ether:ethyl acetate=9:1 to 70:30) affording tert-butyl 2-(5-cyano-1,3-dioxoisoindolin-2-yl)acetate (0.507 g, 1.771 mmol, 58.4% yield, MS/ESI+ not detectable [MH]+).

reactant | 1,3-Dioxoisoindoline-5-carbonitrile | 3.03 mmol, 0.522 g | O=C1NC(C2=CC(=CC=C12)C#N)=O | C9H4N2O2
reactant | tert-butyl 2-bromoacetate | 4.55 mmol, 0.672 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | K2CO3 | 4.55 mmol, 0.629 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-cyano-1,3-dioxoisoindolin-2-yl)acetate | 58.4% yield | C(#N)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H14N2O4
